US05395736
Part A: Preparation of 4-[1-[4-hydroxymethylphenoxy]hex-6-yloxy]benzyl alcohol
4-Hydroxybenzyl alcohol (24.82 g, 0.2 mole) was added to a stirred suspension of finely ground potassium carbonate (42.0 g, 0.4 mole) in dry dimethylformamide (250 mL). The resultant mixture was stirred at 60° C. under dry nitrogen for 10 minutes, then 1,6-dibromohexane (24.4 g, 0.1 mole) was added. The reaction mixture was maintained at 60° C. for 5 hours, then allowed to cool to room temperature and stirred for 17 hours. The reaction mixture was then poured slowly into ice/water (800 mL). A tan precipitate formed, which was collected by filtration, washed with water, and dried in air to give a sticky solid. This material was triturated with 2-propanol (100 mL) and then with cold water (200 mL), to give the desired product as a powder (13.8 g, 42% yield) which was collected by (slow and difficult) filtration. The compound melted at 96°-110° C., and its structure was confirmed by mass spectroscopy and by 1H and 13C NMR spectroscopy.

reactant | 4-Hydroxybenzyl alcohol | 0.2 mole, 24.82 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | potassium carbonate | 0.4 mole, 42.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,6-dibromohexane | 0.1 mole, 24.4 g | BrCCCCCCBr | C6H12Br2
reactant | water | 200 mL | O | H2O
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 4-[1-[4-hydroxymethylphenoxy]hex-6-yloxy]benzyl alcohol | 13.8 g, 42% yield | OCC1=CC=C(OCCCCCCOC2=CC=C(CO)C=C2)C=C1 | C20H26O4
